US06683184B2
1-[(5,6-Dimethyl-2-methoxypyrazin-3-yl)aminothiocarbonyl]-4-(3-bromophenyl)piperazine
Phenyl N-(5,6-dimethyl-2-methoxypyrazin-3-yl)thiocarbamate and 1-(3-bromophenyl)piperazine were reacted by the same way with the example 28 to obtain the titled compound.

reactant | Phenyl N-(5,6-dimethyl-2-methoxypyrazin-3-yl)thiocarbamate | CC=1N=C(C(=NC1C)OC)NC(OC1=CC=CC=C1)=S | C14H15N3O2S
reactant | 1-(3-bromophenyl)piperazine | BrC=1C=C(C=CC1)N1CCNCC1 | C10H13BrN2
product | 1-[(5,6-Dimethyl-2-methoxypyrazin-3-yl)aminothiocarbonyl]-4-(3-bromophenyl)piperazine | yield: 62.5% | CC=1N=C(C(=NC1C)OC)NC(=S)N1CCN(CC1)C1=CC(=CC=C1)Br | C18H22BrN5OS
